US20010046953A1
Preparation of N-Methoxy-N-Methoxycarbonyl Nonanamide (3):
A 100 mL round-bottom flask equipped with a magnetic stir bar, argon inlet and pressure equalizing addition funnel is charged with tetrahydrofuran (14.0 mL), triethylamine (2.13 g, 1.5 eq) and N-methoxynonanamide (1.96 g, 1 eq). The reaction is cooled in an ice bath and methyl chloroformate (1.88 g, 1.4 eq) is added dropwise. The reaction is allowed to warm to room temperature overnight. The tetrahydrofuran is removed under vacuum and the residue is diluted with methylene chloride (25 mL). The reaction is washed with 0.1 M hydrochloric acid solution (1×20 mL), saturated aqueous sodium bicarbonate (3×20 mL) and brine (1×20 mL). The organic layer is dried over sodium sulfate, filtered and concentrated under vacuum.

reactant | triethylamine | 2.13 g, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | N-methoxynonanamide | 1.96 g, 1 eq | CONC(CCCCCCCC)=O | C10H21NO2
reactant | methyl chloroformate | 1.88 g, 1.4 eq | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 14.0 mL | O1CCCC1 | C4H8O
product | N-Methoxy-N-Methoxycarbonyl Nonanamide | CON(C(CCCCCCCC)=O)C(=O)OC | C12H23NO4
